US07253192B2
A] 2-Methyl-2-{2-methyl-4-[5-(5-trifluoromethyl-pyridin-2-yl)-pent-4-ynyloxy]-phenoxy}-propionic acid ethyl ester
A degassed (argon) solution of 152 mg (0.50 mmol) 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid ethyl ester (example 13A]), 124 mg (0.55 mmol) 2-bromo-5-(trifluoromethyl)pyridine and 0.21 ml (1.5 mmol) Et3N in 5 ml acetonitrile was treated with 18 mg (0.03 mmol) of PdCl2(PPh3)2 and 3 mg (0.03 mmol) of CuI. After stirring for 3 h at room temperature the reaction mixture was partitioned between cold aqueous 10% KHSO4 and ether (three times). Washing of the organic layer with aqueous 10% NaCl solution, drying (Na2SO4) and evaporation of the solvents, followed by flash chromatography (SiO2, n-heptane/EtOAc 95:5 to 9:1) yielded 170 mg of the title compound as yellow viscous oil.

reactant | 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid ethyl ester | 0.50 mmol, 152 mg | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCCC#C)C)C)=O | C18H24O4
reactant | 2-bromo-5-(trifluoromethyl)pyridine | 0.55 mmol, 124 mg | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | Et3N | 1.5 mmol, 0.21 ml | CCN(CC)CC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
catalyst | PdCl2(PPh3)2 | 0.03 mmol, 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.03 mmol, 3 mg | [Cu]I
product | 2-Methyl-2-{2-methyl-4-[5-(5-trifluoromethyl-pyridin-2-yl)-pent-4-ynyloxy]-phenoxy}-propionic acid ethyl ester | 170 mg | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCCC#CC1=NC=C(C=C1)C(F)(F)F)C)C)=O | C24H26F3NO4
